US05091419
20.8 g of cycloheptylamine and 20.25 g of triethylamine were dissolved in 500 ml of methylenechloride, and then, 17.0 g of iso-phthaloyl chloride was added to thereto. The mixture was stirred at room temperature for 2 hours, and 500 ml of water was added to the reaction mixture. Then, conc. HCl was added thereto while stirring. Precipitated soli material was collected by filtration, washed with methylene chloride and water successively, and dried giving 28.7 g of N,N'-dicycloheptylisophthalamide.

reactant | cycloheptylamine | 20.8 g | C1(CCCCCC1)N | C7H15N
reactant | triethylamine | 20.25 g | C(C)N(CC)CC | C6H15N
reactant | iso-phthaloyl chloride | 17.0 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | HCl | Cl | ClH
solvent | methylenechloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | N,N'-dicycloheptylisophthalamide | 28.7 g | C1(CCCCCC1)NC(C1=CC(C(=O)NC2CCCCCC2)=CC=C1)=O | C22H32N2O2
